US06251926B1
Lithium hydroxide monohydrate (49.9 mg) was added to a solution of methyl E-4-phenyl-4-[4-(2-phenyl-4-oxazolylmethoxy)benzyloxyimino]butyrate (280 mg) in tetrahydrofuran (6 ml)-water (4 ml)-methanol (4 ml) and stirred at room temperature for 2 hours. 1N hydrochloric acid (1.3 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-bexane to obtain E-4-phenyl-4-[4-(2-phenyl-4-oxazolylmethoxy)benzyloxyimino]butyric acid (237 mg, yield 87%) as colorless crystals. m.p. 144-145° C.

reactant | Lithium hydroxide monohydrate | 49.9 mg | O.[OH-].[Li+]
reactant | methyl E-4-phenyl-4-[4-(2-phenyl-4-oxazolylmethoxy)benzyloxyimino]butyrate | 280 mg | C1(=CC=CC=C1)/C(/CCC(=O)OC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1)C1=CC=CC=C1 | C28H26N2O5
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 1.3 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | E-4-phenyl-4-[4-(2-phenyl-4-oxazolylmethoxy)benzyloxyimino]butyric acid | 237 mg, yield 87% | C1(=CC=CC=C1)/C(/CCC(=O)O)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1)C1=CC=CC=C1 | C27H24N2O5
